US06235730B1
Using 2-chloro-acetanilide (5.1 g) and 2-bromopyridine (9.5 g), a reaction was made in the same manner as in 1) of Production Example 14. The subsequent purification by silica gel column chromatography (developing solvent, ethyl acetate:hexane=1:2 to 1:1) produced 2-chloro-N-(2-pyridyl)acetanilide (6.9 g, crude product) as a red oil.

reactant | 2-chloro-acetanilide | 5.1 g | ClCC(=O)NC1=CC=CC=C1 | C8H8ClNO
reactant | 2-bromopyridine | 9.5 g | BrC1=NC=CC=C1 | C5H4BrN
product | 2-chloro-N-(2-pyridyl)acetanilide | 6.9 g | ClCC(=O)N(C1=CC=CC=C1)C1=NC=CC=C1 | C13H11ClN2O
